US07932272B2
4-[1,3]Dioxolan-2-yl-benzylamine
4-[1,3]Dioxolan-2-yl-benzonitrile described in Preparation Example 119 (3.78 g, 21.6 mmol) was dissolved in tetrahydrofuran (76 mL), lithium aluminum hydride (4.09 g, 108 mmol) was added at 0° C., and the solution was stirred overnight at room temperature. Water (4.09 mL), an aqueous solution of 5N sodium hydroxide (4.09 mL) and water (12.3 mL) were sequentially added to the reaction solution. The reaction solution was filtered through Celite pad, then, the filtrate was evaporated in vacuo, and the title compound (3.92 g, quantitatively) was obtained as a pale yellow oil.

reactant | 4-[1,3]Dioxolan-2-yl-benzonitrile | O1C(OCC1)C1=CC=C(C#N)C=C1 | C10H9NO2
reactant | lithium aluminum hydride | 108 mmol, 4.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 4.09 mL | O | H2O
reactant | sodium hydroxide | 5N, 4.09 mL | [OH-].[Na+]
reactant | water | 12.3 mL | O | H2O
solvent | tetrahydrofuran | 76 mL | O1CCCC1 | C4H8O
product | 4-[1,3]Dioxolan-2-yl-benzylamine | O1C(OCC1)C1=CC=C(CN)C=C1 | C10H13NO2
